US08440673B2
To a microwave vessel was added 2′-fluoro-5-iodo-4′-methyl-biphenyl-3-carboxylic acid methyl ester (1.91 g, 5.4 mmol), 2-isopropyl-2H-pyrazole-3-boronic acid (1.08 g, 7.02 mmol), KOAc (1.59 g, 16.2 mmol), Pd(PPh3)4 (0.187 g, 0.16 mmol), dimethylglycol (15 mL) and water (3 mL). The mixture was flushed with N2 before submitting to microwave heating at 130° C. for 1 hour. After cooling down to room temperature, the reaction mixture was extracted with EtOAc and the combined organic layers were washed with water, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by flash column to afford 2′-fluoro-5-(2-isopropyl-2H-pyrazol-3-yl)-4′-methyl-biphenyl-3-carboxylic acid methyl ester as a viscous oil (1.0 g, 55.2%).

reactant | 2′-fluoro-5-iodo-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 5.4 mmol, 1.91 g | COC(=O)C=1C=C(C=C(C1)I)C1=C(C=C(C=C1)C)F | C15H12FIO2
reactant | 2-isopropyl-2H-pyrazole-3-boronic acid | 7.02 mmol, 1.08 g | C(C)(C)N1N=CC=C1B(O)O | C6H11BN2O2
reactant | KOAc | 16.2 mmol, 1.59 g | CC(=O)[O-].[K+]
reactant | dimethylglycol | 15 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.16 mmol, 0.187 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 3 mL | O | H2O
product | 2′-fluoro-5-(2-isopropyl-2H-pyrazol-3-yl)-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 1.0 g, 55.2% | COC(=O)C=1C=C(C=C(C1)C=1N(N=CC1)C(C)C)C1=C(C=C(C=C1)C)F | C21H21FN2O2
